** sch_path: /foss/designs/ws/xor2_1/xschem/XNOR2_1.sch
.subckt gf180mcu_osu_sc_gp9t3v3__xnor2_2 VDD Z B A VSS
*.ipin A
*.ipin B
*.opin Z
*.iopin VDD
*.iopin VSS
x1 net2 VDD net1 net3 VSS B TG
x2 B VDD net1 net4 VSS net2 TG
x3 VDD B net2 VSS inv
x5 VDD A net4 VSS inv
x4 VDD net1 net5 VSS inv
x6 VDD net5 Z VSS inv
x7 VDD net4 net3 VSS inv
**.ends

* expanding   symbol:  TG.sym # of pins=6
** sym_path: /foss/designs/ws/xor2_1/xschem/TG.sym
** sch_path: /foss/designs/ws/xor2_1/xschem/TG.sch
.subckt TG PG VDD Y A VSS PGB
*.ipin A
*.opin Y
*.ipin PG
*.ipin PGB
*.iopin VDD
*.iopin VSS
XM1 A PG Y VDD pfet_03v3 L=0.3u W=3.4u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2 Y PGB A VSS nfet_03v3 L=0.3u W=1.7u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends


* expanding   symbol:  inv.sym # of pins=4
** sym_path: /foss/designs/ws/xor2_1/xschem/inv.sym
** sch_path: /foss/designs/ws/xor2_1/xschem/inv.sch
.subckt inv VDD A Y VSS
*.ipin A
*.iopin VDD
*.iopin VSS
*.opin Y
XM1 Y A VDD VDD pfet_03v3 L=0.3u W=3.4u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2 Y A VSS VSS nfet_03v3 L=0.3u W=1.7u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends

.end
